US08609117B2
Operation 2: synthesis of (+/−)(1R,2R)-3-hydroxy-2-pentylcyclopentaneacetic acid
This compound was prepared in a way similar to that described in operation 2 of Example 1, by reacting dihydrojasmonic acid with sodium borohydride, NaBH4, in ethanol at 50° C. for 4 hours.

reactant | dihydrojasmonic acid | CCCCCC1C(CCC1=O)CC(=O)O | C12H20O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (+/−)(1R,2R)-3-hydroxy-2-pentylcyclopentaneacetic acid | OC1[C@@H]([C@H](CC1)CC(=O)O)CCCCC | C12H22O3
